US06759428B2
To a solution of ethanol (20 mL), water (0.08 mL, 4 mmol), hydrogen chloride (10.8 mL, 1M in diethylether) was added a solution of 2-(benzhydrylidene-amino)-3-(2-chloro-pyridin-4-yl)-propionitrile (1.50 g, 4 mmol) in ethanol (15 mL) and methanol (5 mL). The reaction was stirred for 20 minutes, then concentrated to one third volume. The crude residue was triturated with hexane (20 mL), ethanol (10 mL), three 30 mL portions of hexane:ether (4:1 vol:vol) and three 30 mL portions of hexane. The precipitate was dried in vacuo to give 2-amino-3-(2-chloro-pyridin-4-yl)-propionitrile as an off white powder (0.90 g, 82%).

reactant | water | 4 mmol, 0.08 mL | O | H2O
reactant | hydrogen chloride | 1M, 10.8 mL | Cl | ClH
reactant | 2-(benzhydrylidene-amino)-3-(2-chloro-pyridin-4-yl)-propionitrile | 4 mmol, 1.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CC1=CC(=NC=C1)Cl | C21H16ClN3
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | methanol | 5 mL | CO | CH4O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-amino-3-(2-chloro-pyridin-4-yl)-propionitrile | NC(C#N)CC1=CC(=NC=C1)Cl | C8H8ClN3
